US07049313B2
6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthrene-2-carboxylate sodium salt (138)
6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthrene-2-carboxylic acid methyl ester (1.1 g, 2.43 mmol) and NaOH Pellets (97 mg, 2.43 mmol) were dissolved in methanol (40 ml). The brown suspension was heated to 80° C. under N2 for 24 hours. The solvent was removed in vacuo and the residue was triturated with diethyl ether. The product was collected by filtration as a fine dark brown powder (1.11 g, 99%). m/z (LC-MS, ESP), RT=3.90 min, (M−−1)=438

reactant | 6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthrene-2-carboxylic acid methyl ester | 2.43 mmol, 1.1 g | COC(=O)C1=CC=2SC3=CC=CC(=C3SC2C=C1)C=1OC(=CC(C1)=O)N1CCOCC1 | C23H19NO5S2
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthrene-2-carboxylate sodium salt | [Na+].N1(CCOCC1)C1=CC(C=C(O1)C1=C2SC=3C=CC(=CC3SC2=CC=C1)C(=O)[O-])=O | InChI=1S/C22H17NO5S2.Na/c24-14-11-16(28-20(12-14)23-6-8-27-9-7-23)15-2-1-3-18-21(15)30-17-5-4-13(22(25)26)10-19(17)29-18;/h1-5,10-12H,6-9H2,(H,25,26);/q;+1/p-1
